US06136810
2-Amino-3-cyano-6-dimethoxymethylpyridine (39.6 g, 0.2 mol) and 12 ml (0.2 mol) of acetaldehyde were dissolved in 400 ml of acetic acid, and the resulting solution was mixed with 45.5 g (0.2 mol) of sodium triacetoxyborohydride and stirred for 2.5 hours at room temperature. The reaction solution was concentrated under a reduced pressure, diluted with chloroform and then washed with 1 N sodium hydroxide aqueous solution. The organic layer was dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and then the filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 33.9 g of 3-cyano-2-ethylamino-6-dimethoxymethylpyridine as an oily material. The yield was 77%.

reactant | 2-Amino-3-cyano-6-dimethoxymethylpyridine | 0.2 mol, 39.6 g | NC1=NC(=CC=C1C#N)C(OC)OC | C9H11N3O2
reactant | acetaldehyde | 0.2 mol, 12 ml | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.2 mol, 45.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 3-cyano-2-ethylamino-6-dimethoxymethylpyridine | 33.9 g, yield was 77% | C(#N)C=1C(=NC(=CC1)C(OC)OC)NCC | C11H15N3O2
